US07115645B2
4-Chloro-N-(1,2-diphenyl-1H-benzimidazol-5-yl)benzenesulfonamide
5-Amino-1,2-diphenyl-1H-benzimidazole was reacted with 4-chlorobenzenesulfonic acid chloride according to general operating instructions 13.

reactant | 5-Amino-1,2-diphenyl-1H-benzimidazole | NC1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C19H15N3
reactant | 4-chlorobenzenesulfonic acid chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 4-Chloro-N-(1,2-diphenyl-1H-benzimidazol-5-yl)benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)NC1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C25H18ClN3O2S
